US05240951
Synthesis of isopropylammonium 3-methyl-5-isothiazolecarboxylate (Compound No. 9)
3-Methyl-5-isothiazolecarboxylic acid (1.0 g) was dissolved in 10 ml of dry tetrahydrofuran, in which a solution of 0.41 g of isopropylamine in 5 ml of dry tetrahydrofuran were added dropwise at room temperature under stirring. White crystals were formed concurrently with the dropwise addition. After the reaction mixture was stirred further at room temperature for 30 minutes, crystals were collected by filtration and washed with a small amount of dry tetrahydrofuran. The crystals were dried at 40° C. for 3 hours under reduced pressure, whereby 1.20 g of the title compound were obtained (yield: 85%).

reactant | 3-Methyl-5-isothiazolecarboxylic acid | 1.0 g | CC1=NSC(=C1)C(=O)O | C5H5NO2S
reactant | isopropylamine | 0.41 g | C(C)(C)N | C3H9N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | isopropylammonium 3-methyl-5-isothiazolecarboxylate | 1.20 g, yield: 85% | CC1=NSC(=C1)C(=O)[O-].C(C)(C)[NH3+] | InChI=1S/C5H5NO2S.C3H9N/c1-3-2-4(5(7)8)9-6-3;1-3(2)4/h2H,1H3,(H,7,8);3H,4H2,1-2H3
